US07592334B2
f) 4-Bromo-6-methoxy-[1,5]naphthyridine-3-diazonium tetrafluoroborate
A solution of 4-bromo-6-methoxy-[1,5]naphthyridin-3-ylamine (25.2 g, 99.2 mmole) in dry THF (400 mL) was maintained at −5° C. while nitrosonium tetrafluoroborate (12.9 g, 110 mmole) was added portionwise over 30 min (approximately 2 g portions). The reaction was continued for an additional 1 hr at −5° C., at which time TLC* and LC/MS indicated that the reaction was complete. The orange solid was collected by suction filtration, washed with ice-cold THF and dried under vacuum to provide the title compound (31.42 g, 90%).

reactant | 4-bromo-6-methoxy-[1,5]naphthyridin-3-ylamine | 99.2 mmole, 25.2 g | BrC1=C(C=NC2=CC=C(N=C12)OC)N | C9H8BrN3O
reactant | nitrosonium tetrafluoroborate | 110 mmole, 12.9 g | F[B-](F)(F)F.N#[O+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4-Bromo-6-methoxy-[1,5]naphthyridine-3-diazonium tetrafluoroborate | 31.42 g, 90% | F[B-](F)(F)F.BrC1=C(C=NC2=CC=C(N=C12)OC)[N+]#N | InChI=1S/C9H6BrN4O.BF4/c1-15-7-3-2-5-9(13-7)8(10)6(14-11)4-12-5;2-1(3,4)5/h2-4H,1H3;/q+1;-1
